* C:\Users\mark_\Documents\ELECTENG 209\209\Labs\AnalogueLab2\Lab2Task3.asc
R1 N003 N002 50
R2 N004 0 100
C1 N003 0 100µ
C2 N004 0 47µ
V1 N001 0 SINE(0 16.97056274847714 1000)
XU1 0 N004 N003 LT1085-3.3
D1 N001 N002 1N4148
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.tran 0 0.01 0 0.001
.lib LT1083.lib
.backanno
.end
