* C:\Users\The Dude\Desktop\UOA Year 2\Semester 2\Electeng 209\3 Lab Documents\Labs\all-labs\209\Labs\AnalogueLab2\Lab2Task5.asc
V1 N001 0 SINE(0 19.799 500)
L1 N001 N002 3.7m
R1 N002 N005 20
D1 N007 0 BZX84C15L
D2 N007 N005 BZX84C15L
R4 N006 N005 8.2k
R5 N004 0 8.2k
R6 N006 N008 47k
XU1 N006 N004 N003 0 Vout level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V2 N008 0 1.65
V3 N003 0 3.3
R7 Vout N004 47k
R3 N005 0 270m
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.tran 0 1 0.1 10u
.lib UniversalOpamps2.sub
.backanno
.end
